US07582651B2
(5) 1-[(4-Fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile
To a solution of 5-amino-1-[(4-fluorophenyl)(phenyl)methyl]-1H-pyrrole-3-carbonitrile (13.7 g, 47.0 mmol) in ethanol (200 ml) was sequentially added acetylacetone (5.66 g, 56.6 mmol) and concentrated hydrochloric acid (2.0 ml). The mixture was heated under reflux for 3 hours, poured into saturated sodium bicarbonate solution and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate and hexane.

reactant | 5-amino-1-[(4-fluorophenyl)(phenyl)methyl]-1H-pyrrole-3-carbonitrile | 47.0 mmol, 13.7 g | NC1=CC(=CN1C(C1=CC=CC=C1)C1=CC=C(C=C1)F)C#N | C18H14FN3
reactant | acetylacetone | 56.6 mmol, 5.66 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | hydrochloric acid | 2.0 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-[(4-Fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | FC1=CC=C(C=C1)C(N1C=C(C=2C1=NC(=CC2C)C)C#N)C2=CC=CC=C2 | C23H18FN3
